US04125729
Methyl α-(phenoxy)-α-(p-iodophenyl)acetate
In a similar manner as in Example 29, 14.2 g of methyl α-bromo-α-(p-iodophenyl)acetate is reacted with 4.70 g of phenol in methanol to yield a white to light pink solid, mp 68°-71° C. Recrystallization from petroleum ether yields the product as white crystals, mp 72.5°-74° C.

reactant | methyl α-bromo-α-(p-iodophenyl)acetate | 14.2 g | BrC(C(=O)OC)C1=CC=C(C=C1)I | C9H8BrIO2
reactant | phenol | 4.70 g | C1(=CC=CC=C1)O | C6H6O
solvent | methanol | CO | CH4O
product | Methyl α-(phenoxy)-α-(p-iodophenyl)acetate | O(C1=CC=CC=C1)C(C(=O)OC)C1=CC=C(C=C1)I | C15H13IO3
